US06426345B1
A mixture of 2-[3-acetylamino-5-methoxycarbonylphenylamino]-3-aminopyridine (1.07 g) and 3-(3-pyridyl)pyruvic acid (0.65 g) in methanol (15 ml) was stirred under reflux for 5 hours. The precipitate was collected and washed with methanol to give 4-(3-acetylamino-5-methoxycarbonylphenyl)-2-(3-pyridylmethyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (1.08 g).

reactant | 2-[3-acetylamino-5-methoxycarbonylphenylamino]-3-aminopyridine | 1.07 g | C(C)(=O)NC=1C=C(C=C(C1)C(=O)OC)NC1=NC=CC=C1N | C15H16N4O3
reactant | 3-(3-pyridyl)pyruvic acid | 0.65 g | N1=CC(=CC=C1)CC(C(=O)O)=O | C8H7NO3
solvent | methanol | 15 ml | CO | CH4O
product | 4-(3-acetylamino-5-methoxycarbonylphenyl)-2-(3-pyridylmethyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 1.08 g | C(C)(=O)NC=1C=C(C=C(C1)C(=O)OC)N1C2=C(N=C(C1=O)CC=1C=NC=CC1)C=CC=N2 | C23H19N5O4
